US05162322
3-Methyl-5-[4-[4-(2-pyrimidinyl)-1-piperazinyl]butyl]-2-oxazolidinone.
Following the procedure of Example 1, mixture of 5-(4-chlorobutyl)-3-methyl-2-oxazolidinone (5.0 g, 0.0262 mol), 1-(2-pyrimidinyl)piperazine dihydrochloride (6.62 g, 0.0279 mol), potassium carbonate (19.3 g, 0.140 mol) and potassium iodide (0.75 g) in 1-butanol (75 ml) gave an oil (3.0 g) which crystallized upon standing. Recrystallization from ethyl acetate/light pet ether followed by drying under high vacuum gave 1.33 g (16% yield), mp 74°-76° C.

reactant | 5-(4-chlorobutyl)-3-methyl-2-oxazolidinone | 0.0262 mol, 5.0 g | ClCCCCC1CN(C(O1)=O)C | C8H14ClNO2
reactant | 1-(2-pyrimidinyl)piperazine dihydrochloride | 0.0279 mol, 6.62 g | Cl.Cl.N1=C(N=CC=C1)N1CCNCC1
reactant | potassium carbonate | 0.140 mol, 19.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.75 g | [I-].[K+]
solvent | 1-butanol | 75 ml | C(CCC)O | C4H10O
product | 3-Methyl-5-[4-[4-(2-pyrimidinyl)-1-piperazinyl]butyl]-2-oxazolidinone | 3.0 g, 16% yield | CN1C(OC(C1)CCCCN1CCN(CC1)C1=NC=CC=N1)=O | C16H25N5O2
